US08648081B2
Stir a mixture of ({3-[5-(3,5-Dichloro-4-fluoro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carbonyl}-amino)-acetic acid methyl ester (11 g, 18.6 mmol) and LiOH—H2O (1.56 g, 37.2 mmol) in THF (100 mL) and water (50 mL) at room temperature for overnight. After being checked with TLC, the solvent is removed under vacuum, dilute the residue with water (50 mL). Acidify the aqueous mixture with 2M HCl to pH=3, and extract the resultant mixture with EtOAc (100 mL×3), the combined organic layer is washed with brine, dried over anhydrous Na2SO4 and concentrated under vacuum, the residue is purified by silica gel chromatograph (PE:EtOAc 1:1) to afford ({3-[5-(3,5-Dichloro-4-fluoro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carbonyl}-amino)-acetic acid as a white solid (10.2 g, 90.7% for two steps). MS (m/z): 525 (M+1).

reactant | ({3-[5-(3,5-Dichloro-4-fluoro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carbonyl}-amino)-acetic acid methyl ester | 18.6 mmol, 11 g | COC(CNC(=O)C=1SC(=C2C1CCC2)C2=NOC(C2)(C(F)(F)F)C2=CC(=C(C(=C2)Cl)F)Cl)=O | C21H16Cl2F4N2O4S
reactant | LiOH—H2O | 37.2 mmol, 1.56 g | O[Li].O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | ({3-[5-(3,5-Dichloro-4-fluoro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carbonyl}-amino)-acetic acid | ClC=1C=C(C=C(C1F)Cl)C1(CC(=NO1)C1=C2C(=C(S1)C(=O)NCC(=O)O)CCC2)C(F)(F)F | C20H14Cl2F4N2O4S
